US07612114B2
5′-Methoxy-2′-[2-(4-methoxyphenyl)ethyl]biphenyl-4-ol
Synthesized from 5-methoxy-2-[2-(4-methoxyphenyl)ethyl]phenyl trifluoromethanesulfonate and 4-benzyloxyphenylboronic acid according to an analogous synthetic method to Example 24, 4′-benzyloxy-5-methoxy-2-[2-(4-methoxyphenyl)ethyl]biphenyl (600 mg) was used according to an analogous synthetic method to Example 22 to provide the title compound (417 mg).

reactant | 5-methoxy-2-[2-(4-methoxyphenyl)ethyl]phenyl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=CC(=C1)OC)CCC1=CC=C(C=C1)OC)(F)F | C17H17F3O5S
reactant | 4-benzyloxyphenylboronic acid | C(C1=CC=CC=C1)OC1=CC=C(C=C1)B(O)O | C13H13BO3
reactant | 4′-benzyloxy-5-methoxy-2-[2-(4-methoxyphenyl)ethyl]biphenyl | 600 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=C(C=CC(=C1)OC)CCC1=CC=C(C=C1)OC | C29H28O3
product | 5′-Methoxy-2′-[2-(4-methoxyphenyl)ethyl]biphenyl-4-ol | 417 mg | COC=1C=CC(=C(C1)C1=CC=C(C=C1)O)CCC1=CC=C(C=C1)OC | C22H22O3
